** Name: SimpleTwoStageOpAmp_SimpleOpAmp10_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp10_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=8e-6
mDiodeTransistorPmos2 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=128e-6
mDiodeTransistorPmos3 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=229e-6
mNormalTransistorNmos4 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=526e-6
mNormalTransistorNmos5 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=10e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=126e-6
mNormalTransistorPmos9 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=488e-6
mNormalTransistorPmos10 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=199e-6
mNormalTransistorPmos11 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=229e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp10_7

** Expected Performance Values: 
** Gain: 91 dB
** Power consumption: 7.84601 mW
** Area: 7232 (mu_m)^2
** Transit frequency: 24.9891 MHz
** Transit frequency with error factor: 24.9521 MHz
** Slew rate: 47.5452 V/mu_s
** Phase margin: 55.577°
** CMRR: 97 dB
** negPSRR: 109 dB
** posPSRR: 96 dB
** VoutMax: 4.71001 V
** VoutMin: 0.210001 V
** VcmMax: 4.32001 V
** VcmMin: 0.920001 V


** Expected Currents: 
** NormalTransistorNmos: 649.818 muA
** DiodeTransistorPmos: -77.6189 muA
** NormalTransistorPmos: -77.6189 muA
** NormalTransistorPmos: -77.6189 muA
** NormalTransistorNmos: 155.238 muA
** NormalTransistorNmos: 77.6181 muA
** NormalTransistorNmos: 77.6181 muA
** NormalTransistorNmos: 754.155 muA
** NormalTransistorPmos: -754.154 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -649.817 muA


** Expected Voltages: 
** ibias: 0.615001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.14101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load1: 4.45801  V
** out1: 4.12701  V
** sourceTransconductance: 1.79101  V


.END