** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=54e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=266e-6
mNormalTransistorNmos4 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=54e-6
mNormalTransistorPmos5 out ibias sourcePmos sourcePmos pmos4 L=1e-6 W=509e-6
mNormalTransistorPmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=121e-6
mNormalTransistorPmos7 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=121e-6
mNormalTransistorPmos8 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=102e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_1

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 3.16401 mW
** Area: 1345 (mu_m)^2
** Transit frequency: 33.8671 MHz
** Transit frequency with error factor: 33.8096 MHz
** Slew rate: 32.9064 V/mu_s
** Phase margin: 55.577°
** CMRR: 101 dB
** negPSRR: 103 dB
** posPSRR: 228 dB
** VoutMax: 4.76001 V
** VoutMin: 0.150001 V
** VcmMax: 4.05001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** DiodeTransistorNmos: 51.7071 muA
** NormalTransistorNmos: 51.7071 muA
** NormalTransistorPmos: -103.414 muA
** NormalTransistorPmos: -51.7079 muA
** NormalTransistorPmos: -51.7079 muA
** NormalTransistorNmos: 509.419 muA
** NormalTransistorPmos: -509.418 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceTransconductance: 3.21801  V


.END