** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=145e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=151e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=560e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=145e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=1e-6 W=12e-6
mNormalTransistorPmos9 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=151e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=156e-6
mNormalTransistorPmos11 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=135e-6
mNormalTransistorPmos12 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=156e-6
mNormalTransistorPmos13 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos14 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_5

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 7.50901 mW
** Area: 2865 (mu_m)^2
** Transit frequency: 58.7371 MHz
** Transit frequency with error factor: 58.5791 MHz
** Slew rate: 85.9499 V/mu_s
** Phase margin: 64.1713°
** CMRR: 95 dB
** negPSRR: 96 dB
** posPSRR: 235 dB
** VoutMax: 3.17001 V
** VoutMin: 0.150001 V
** VcmMax: 3.96001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 72.3241 muA
** NormalTransistorPmos: -61.4139 muA
** DiodeTransistorNmos: 138.628 muA
** NormalTransistorNmos: 138.628 muA
** NormalTransistorPmos: -277.254 muA
** NormalTransistorPmos: -138.627 muA
** NormalTransistorPmos: -138.627 muA
** NormalTransistorNmos: 1070.79 muA
** NormalTransistorPmos: -1070.78 muA
** DiodeTransistorPmos: -1070.78 muA
** DiodeTransistorNmos: 61.4131 muA
** DiodeTransistorPmos: -72.3249 muA
** NormalTransistorPmos: -72.3259 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.27601  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 2.60601  V
** outSourceVoltageBiasXXpXX1: 3.80301  V
** outVoltageBiasXXnXX0: 0.673001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceTransconductance: 3.37801  V
** inner: 3.80301  V


.END