** Name: SimpleTwoStageOpAmp_SimpleOpAmp29_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp29_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=11e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=249e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=8e-6 W=131e-6
mNormalTransistorNmos5 out ibias sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=24e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=13e-6
mNormalTransistorNmos8 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=46e-6
mNormalTransistorNmos9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=24e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance inputVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=143e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=249e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=432e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=8e-6 W=131e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp29_7

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 6.80901 mW
** Area: 6974 (mu_m)^2
** Transit frequency: 29.9441 MHz
** Transit frequency with error factor: 29.895 MHz
** Slew rate: 28.2216 V/mu_s
** Phase margin: 55.577°
** CMRR: 94 dB
** negPSRR: 156 dB
** posPSRR: 93 dB
** VoutMax: 4.60001 V
** VoutMin: 0.220001 V
** VcmMax: 4.44001 V
** VcmMin: 1.41001 V


** Expected Currents: 
** NormalTransistorNmos: 26.1711 muA
** NormalTransistorPmos: -26.1999 muA
** DiodeTransistorPmos: -45.7129 muA
** NormalTransistorPmos: -45.7129 muA
** NormalTransistorNmos: 91.4231 muA
** NormalTransistorNmos: 91.4221 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 1207.91 muA
** NormalTransistorPmos: -1207.9 muA
** DiodeTransistorNmos: 26.1991 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -26.1719 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.851001  V
** out: 2.5  V
** outFirstStage: 4.03901  V
** outVoltageBiasXXpXX0: 4.28201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.217001  V
** out1: 4.03901  V
** sourceTransconductance: 1.94501  V


.END