** Name: SimpleTwoStageOpAmp_SimpleOpAmp29_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp29_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=5e-6 W=11e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=43e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=513e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=27e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=215e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=513e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=143e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=43e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=489e-6
mNormalTransistorNmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=43e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=5e-6 W=485e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=43e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=215e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=22e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp29_9

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 4.12001 mW
** Area: 10117 (mu_m)^2
** Transit frequency: 23.8881 MHz
** Transit frequency with error factor: 23.7843 MHz
** Slew rate: 39.6522 V/mu_s
** Phase margin: 55.004°
** CMRR: 91 dB
** negPSRR: 132 dB
** posPSRR: 90 dB
** VoutMax: 4.78001 V
** VoutMin: 0.720001 V
** VcmMax: 4.62001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 54.8371 muA
** NormalTransistorPmos: -43.8539 muA
** DiodeTransistorPmos: -93.1499 muA
** NormalTransistorPmos: -93.1499 muA
** NormalTransistorNmos: 186.298 muA
** NormalTransistorNmos: 186.297 muA
** NormalTransistorNmos: 93.1491 muA
** NormalTransistorNmos: 93.1491 muA
** NormalTransistorNmos: 528.962 muA
** DiodeTransistorNmos: 528.961 muA
** NormalTransistorPmos: -528.961 muA
** DiodeTransistorNmos: 43.8531 muA
** NormalTransistorNmos: 43.8531 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -54.8379 muA


** Expected Voltages: 
** ibias: 1.19101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 3.85501  V
** out: 2.5  V
** outFirstStage: 4.21501  V
** outInputVoltageBiasXXnXX1: 1.12201  V
** outSourceVoltageBiasXXnXX1: 0.561001  V
** outSourceVoltageBiasXXnXX2: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.636001  V
** out1: 4.21501  V
** sourceTransconductance: 1.70501  V
** inner: 0.561001  V


.END