** Name: SimpleTwoStageOpAmp_SimpleOpAmp30_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp30_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos4 L=3e-6 W=4e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=504e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=163e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=61e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=97e-6
mNormalTransistorNmos7 out ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=600e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=40e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=96e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=96e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=163e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=504e-6
mNormalTransistorNmos13 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=350e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=97e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=169e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp30_9

** Expected Performance Values: 
** Gain: 91 dB
** Power consumption: 9.83701 mW
** Area: 12864 (mu_m)^2
** Transit frequency: 29.8711 MHz
** Transit frequency with error factor: 29.8218 MHz
** Slew rate: 28.1525 V/mu_s
** Phase margin: 55.577°
** CMRR: 93 dB
** negPSRR: 150 dB
** posPSRR: 91 dB
** VoutMax: 4.51001 V
** VoutMin: 1 V
** VcmMax: 4.35001 V
** VcmMin: 1.28001 V


** Expected Currents: 
** NormalTransistorNmos: 100.565 muA
** NormalTransistorPmos: -277.145 muA
** DiodeTransistorPmos: -45.7129 muA
** NormalTransistorPmos: -45.7129 muA
** NormalTransistorNmos: 91.4231 muA
** DiodeTransistorNmos: 91.4221 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 1488.22 muA
** DiodeTransistorNmos: 1488.22 muA
** NormalTransistorPmos: -1488.21 muA
** DiodeTransistorNmos: 277.146 muA
** NormalTransistorNmos: 277.146 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -100.564 muA


** Expected Voltages: 
** ibias: 1.40201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 3.82801  V
** out: 2.5  V
** outFirstStage: 3.94601  V
** outInputVoltageBiasXXnXX1: 1.13401  V
** outSourceVoltageBiasXXnXX1: 0.567001  V
** outSourceVoltageBiasXXnXX2: 0.702001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 3.94701  V
** sourceTransconductance: 1.94501  V
** inner: 0.567001  V
** inner: 0.698001  V


.END